US06599917B1
b) 3-[2-Benzyl-6-(4-pyridyl)-3-pyridyl]ethynyl-3-quinuclidinol
A mixture of 196 mg of 2-benzyl-3-bromo-6-(4-pyridyl)pyridine, 100 mg of 3-ethynyl-3-quinuclidinol, 70 mg of tetrakis(triphenylphosphine)palladium(0), 11 mg of cuprous iodide, 0.25 ml of triethylamine and 3.0 ml of N,N-dimethylformamide was heated under stirring in an oil bath kept at 85° C. for one hour in a nitrogen atmosphere. After cooling as it was, the mixture was extracted with ethyl acetate-dilute aqueous ammonia. The organic phase was washed with brine and the solvent was removed. The residue was subjected to NH-silica gel column chromatography and eluted with hexane/ethyl acetate (1:1) and then with methanol/ethyl acetate (20:1). After removing the solvent, the residue was recrystallized from hexane/ethyl acetate, to give 178 mg of the target compound.

reactant | 2-benzyl-3-bromo-6-(4-pyridyl)pyridine | 196 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1Br)C1=CC=NC=C1 | C17H13BrN2
reactant | 3-ethynyl-3-quinuclidinol | 100 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 3-[2-Benzyl-6-(4-pyridyl)-3-pyridyl]ethynyl-3-quinuclidinol | 178 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1C#CC1(CN2CCC1CC2)O)C2=CC=NC=C2 | C26H25N3O
